US09422331B2
A mixture of (2S,3S)-3-amino-2-(tert-butoxycarbonylamino)butanoic acid (3.14 g, 14.4 mmol), dimethylsulfoxide (40 ml), 3-fluoro-4-nitrobenzonitrile (2.63 g, 15.8 mmol), and sodium bicarbonate (4.83 g, 57.5 mmol) was stirred at 55° C. for 3 h. Additional NaHCO3 (0.9 g) was added and the mixture was stirred at 60° C. for 1 hour, then cooled to RT, diluted with cold sat. Na2CO3, and washed with MTBE. The aqueous phase was carefully acidified to pH ˜4 with solid citric acid and extracted with EtOAc (three times). The combined organic layers were washed with H2O twice and brine, dried over Na2SO4, filtered, and concentrated to provide (2S,3S)-2-(tert-butoxycarbonylamino)-3-(5-cyano-2-nitrophenylamino)butanoic acid (5.7 g, quant.).

reactant | (2S,3S)-3-amino-2-(tert-butoxycarbonylamino)butanoic acid | 14.4 mmol, 3.14 g | N[C@H]([C@@H](C(=O)O)NC(=O)OC(C)(C)C)C | C9H18N2O4
reactant | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
reactant | 3-fluoro-4-nitrobenzonitrile | 15.8 mmol, 2.63 g | FC=1C=C(C#N)C=CC1[N+](=O)[O-] | C7H3FN2O2
reactant | sodium bicarbonate | 57.5 mmol, 4.83 g | C([O-])(O)=O.[Na+]
reactant | NaHCO3 | 0.9 g | C(=O)(O)[O-].[Na+]
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | (2S,3S)-2-(tert-butoxycarbonylamino)-3-(5-cyano-2-nitrophenylamino)butanoic acid | 5.7 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)[C@H](C)NC1=C(C=CC(=C1)C#N)[N+](=O)[O-] | C16H20N4O6
